US08183250B2
3-phenyl-4H-pyrazolo[1,5-a]quinazolin-5-one
A mixture of 2-hydrazinobenzoic acid (0.15 g, 0.8 mmol) and 3-oxo-2-phenyl-propionitrile (0.116 g, 0.8 mmol) in acetic acid (0.2 mL) was heated in a microwave (Personal Chemistry SmithSynthesizer) at 150° C. for 10 minutes. The precipitated product was filtered, washed with methanol and diethyl ether and dried. 1H NMR (DMSO-d6) δ 12.10 (s, 1H), 8.10-8.19 (m, 3H) 7.88-7.96 (m, 1H), 7.59 (d, J=7.3 Hz, 2H), 7.52 (t, J=7.8 Hz, 1H), 7.42 (t, J=7.6 Hz, 2 Hz), 7.28 (t, J=7.3 Hz, 1H).

reactant | 2-hydrazinobenzoic acid | 0.8 mmol, 0.15 g | N(N)C1=C(C(=O)O)C=CC=C1 | C7H8N2O2
reactant | 3-oxo-2-phenyl-propionitrile | 0.8 mmol, 0.116 g | O=CC(C#N)C1=CC=CC=C1 | C9H7NO
solvent | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
product | 3-phenyl-4H-pyrazolo[1,5-a]quinazolin-5-one | C1(=CC=CC=C1)C=1C=NN2C1NC(C1=CC=CC=C21)=O | C16H11N3O
